US08476434B2
A solution of 2,5-dimethoxybenzoic acid (10.0 g, 54.9 mmol) in 55 mL concentrated sulfuric acid was heated to 55 deg. C. for 48 h. The reaction was then poured into ice. A precipitate formed, and the mixture was allowed to stand overnight. The resulting crystals were collected by filtration and dried in vacuo. The material was further purified by silica gel chromatography to give 5-hydroxy-2-methoxybenzoic acid as a white solid. MS m/z=169.0 [M+1]+. Calc'd for C8H8O4: 168.15.

reactant | 2,5-dimethoxybenzoic acid | 54.9 mmol, 10.0 g | COC1=C(C(=O)O)C=C(C=C1)OC | C9H10O4
solvent | sulfuric acid | 55 mL | S(O)(O)(=O)=O | H2O4S
product | 5-hydroxy-2-methoxybenzoic acid | OC=1C=CC(=C(C(=O)O)C1)OC | C8H8O4
